US07872097B2
(3R,6S,9S,12S,15S,18S,21R,24S,27S,30S,33S)-3-[(Benzyloxy)methyl]-6-[(1R)-1-hydroxyethyl]-9-[(1R,2R)-1-hydroxy-2-methylhexyl]-15,18,27,30,33-pentaisobutyl-12-isopropyl-1,4,10,13,19,21,24,28-octamethyl-1,4,7,10,13,16,19,22,25,28,31-undecaazacyclotritriacontane-2,5,8,11,14,17,20,23,26,29,32-undecone (22 mg) are dissolved in MeOH (1 ml) and hydrogenated at room temperature and atmospheric pressure over 5% Pd on charcoal. After 2 hrs, the catalyst was filtered off and the filtrate was concentrated in vacuo under reduced pressure. The residue was purified by silica-gel column chromatography (hexane-acetone, 1:1) to yield (3R,6S,9S,12S,15S,18S,21R,24S,27S,30S,33S)-6-[(1R)-1-hydroxyethyl]-3-(hydroxymethyl)-9-[(1R,2R)-1-hydroxy-2-methylhexyl]-15,18,27,30,33-pentaisobutyl-12-isopropyl-1,4,10,13,19,21,24,28-octamethyl-1,4,7,10,13,16,19,22,25,28,31-undecaazacyclotritriacontane-2,5,8,11,14,17,20,23,26,29,32-undecone (18 mg).

reactant | (3R,6S,9S,12S,15S,18S,21R,24S,27S,30S,33S)-3-[(Benzyloxy)methyl]-6-[(1R)-1-hydroxyethyl]-9-[(1R,2R)-1-hydroxy-2-methylhexyl]-15,18,27,30,33-pentaisobutyl-12-isopropyl-1,4,10,13,19,21,24,28-octamethyl-1,4,7,10,13,16,19,22,25,28,31-undecaazacyclotritriacontane-2,5,8,11,14,17,20,23,26,29,32-undecone | 22 mg | C(C1=CC=CC=C1)OC[C@@H]1C(N([C@H](C(N[C@H](C(N([C@H](C(N[C@H](C(N[C@@H](C(N([C@H](C(N[C@H](C(N([C@H](C(N([C@H](C(N[C@H](C(N1C)=O)[C@@H](C)O)=O)[C@@H]([C@@H](CCCC)C)O)C)=O)C(C)C)C)=O)CC(C)C)=O)CC(C)C)C)=O)C)=O)C)=O)CC(C)C)C)=O)CC(C)C)=O)CC(C)C)C)=O | C70H121N11O14
solvent | MeOH | 1 ml | CO | CH4O
catalyst | Pd on charcoal | [Pd] | Pd
product | (3R,6S,9S,12S,15S,18S,21R,24S,27S,30S,33S)-6-[(1R)-1-hydroxyethyl]-3-(hydroxymethyl)-9-[(1R,2R)-1-hydroxy-2-methylhexyl]-15,18,27,30,33-pentaisobutyl-12-isopropyl-1,4,10,13,19,21,24,28-octamethyl-1,4,7,10,13,16,19,22,25,28,31-undecaazacyclotritriacontane-2,5,8,11,14,17,20,23,26,29,32-undecone | 18 mg | O[C@H](C)[C@H]1C(N([C@@H](C(N([C@H](C(N[C@H](C(N([C@H](C(N[C@H](C(N[C@@H](C(N([C@H](C(N[C@H](C(N([C@H](C(N([C@H](C(N1)=O)[C@@H]([C@@H](CCCC)C)O)C)=O)C(C)C)C)=O)CC(C)C)=O)CC(C)C)C)=O)C)=O)C)=O)CC(C)C)C)=O)CC(C)C)=O)CC(C)C)C)=O)CO)C)=O | C63H115N11O14
